US06693099B2
N-(tert-Butoxycarbonyl)-cis-4-amino-1-cyclohexanecarboxylic acid (23)
cis-4-Amino-1-cyclohexanecarboxylic acid (2.00 g, 14.0 mmol) is dissolved in 1N sodium hydroxide (15.2 mL, 15.2 mmol) and tert-butanol (18 mL). Di-tert-butyl dicarbonate (3.06 g, 14.0 mmol) is added and the reaction stirred for 2 hours at ambient temperature. The mixture is washed with hexane (3×20 mL). The aqueous phase is treated with 1N HCl (20 mL) and extracted with ethyl acetate (3×20 mL). The combined organic extracts are dried over magnesium sulfate, filtered and concentrated in vacuo to afford the desired product as a white solid. CIMS: MH+ 244

reactant | cis-4-Amino-1-cyclohexanecarboxylic acid | 14.0 mmol, 2.00 g | N[C@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | sodium hydroxide | 15.2 mmol, 1N, 15.2 mL | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 14.0 mmol, 3.06 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | 18 mL | C(C)(C)(C)O | C4H10O
product | N-(tert-Butoxycarbonyl)-cis-4-amino-1-cyclohexanecarboxylic acid | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
